US09085578B2
4-(6-bromopyridin-3-yl)tetrahydro-2H-pyran-4-ol
To a suspension of 2-bromo-5-iodopyridine (2.00 g) in tetrahydrofuran (20 mL) and diethyl ether (10 mL) was added dropwise 1.6M n-butyllithium hexane solution (4.40 mL) at −78° C. The mixture was stirred at −78° C. for 30 min under argon atmosphere, and a solution of tetrahydro-4H-pyran-4-one (0.651 mL) in tetrahydrofuran (10 mL) was added dropwise thereto at −78° C. The reaction mixture was slowly warmed to −50° C., aqueous ammonium chloride solution was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (0.932 g).

reactant | 2-bromo-5-iodopyridine | 2.00 g | BrC1=NC=C(C=C1)I | C5H3BrIN
reactant | n-butyllithium hexane | 1.6M, 4.40 mL | CCCCCC.C(CCC)[Li]
reactant | tetrahydro-4H-pyran-4-one | 0.651 mL | O1CCC(CC1)=O | C5H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(6-bromopyridin-3-yl)tetrahydro-2H-pyran-4-ol | 0.932 g | BrC1=CC=C(C=N1)C1(CCOCC1)O | C10H12BrNO2
